### PR TITLE
[Merged by Bors] - feat(Tactic/Ring): handle `ℤ`-scalar multiplication in the ring tactic

### PR DESCRIPTION
**Pull request by hrmacbeth**
`ring` handles ℕ-scalar multiplication; it seems like an accidental omission that it doesn't handle ℤ-scalar multiplication. This PR adds that feature. Everything is directly adapted from the ℕ case.

A notable use case for this feature: often `abel_nf` output contains ℤ-scalar multiplication, so it's important that this can be handled if needed in subsequent `ring` calls.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/Ring/Basic.lean [hunk 1]
```diff
@@ -579,6 +594,111 @@ def evalNSMul {a : Q(ℕ)} {b : Q($α)} (va : ExSum sℕ a) (vb : ExSum sα b) :
...
+    match a with
+    | ~q(Nat.rawCast $m) =>
+      pure ⟨q(Nat.rawCast $m), .const c hc, q(natCast_int (R := $α) $m)⟩
+    | ~q(Int.rawCast (Int.negOfNat $m)) =>
+      pure ⟨q(Int.rawCast (Int.negOfNat $m)), .const c hc, q(intCast_negOfNat_Int (R := $α) $m)⟩
+  | .mul (e := a₂) va₁ va₂ va₃ => do
+    let ⟨_, vb₁, pb₁⟩ ← va₁.evalIntCast rα
+    let ⟨_, vb₃, pb₃⟩ ← va₃.evalIntCast rα
+    -- Qq is probably unhappy about `Ring` and `CommSemiring` at the same time.
+    let pf ← mkAppM ``intCast_mul #[a₂, pb₁, pb₃]
```
Comment (Vierkantor) [inline Mathlib/Tactic/Ring/Basic.lean:650]: I tried using Qq with `assertInstancesCommute` and `have : ($sα).toSemiring =Q ($rα).toSemiring := ⟨⟩`. Since neither worked, let's indeed make the term by hand.

File: Mathlib/Tactic/Ring/Basic.lean [hunk 2]
```diff
@@ -579,6 +594,111 @@ def evalNSMul {a : Q(ℕ)} {b : Q($α)} (va : ExSum sℕ a) (vb : ExSum sα b) :
...
+
+theorem smul_eq_intCast {R} [Ring R] {a' b c : R} {a : ℤ} (_ : ((a : ℤ) : R) = a')
+    (_ : a' * b = c) : a • b = c := by
+  subst_vars; simp
+
+/-- Constructs the scalar multiplication `n • a`, where both `n : ℤ` and `a : α` are normalized
+polynomial expressions.
+
+* `a • b = a * b` if `α = ℤ`
+* `a • b = ↑a * b` otherwise
```
Comment (Vierkantor) [inline Mathlib/Tactic/Ring/Basic.lean]:
```suggestion
* `a • b = a' * b` otherwise, where `a'` is `↑a` with the coercion pushed as deep as possible.
```

File: Mathlib/Tactic/Ring/Basic.lean (hunk 1 above)
Comment (hrmacbeth) [reply Mathlib/Tactic/Ring/Basic.lean:650]: (Note that this pattern, and the comment describing it, are copied from the existing `ring` handling of negation and subtraction, where the issue is the same: in `ring` we carry around a `CommSemiring` instance, together with an optional separate `Ring` instance.)

**Comment by adomani** [comment]
!bench

**Review by adomani — APPROVED** [review]
I have never used myself `Qq`, but everything in this PR looks good!

File: Mathlib/Tactic/Ring/Basic.lean [hunk 3]
```diff
@@ -579,6 +594,111 @@ def evalNSMul {a : Q(ℕ)} {b : Q($α)} (va : ExSum sℕ a) (vb : ExSum sα b) :
...
+    -- Qq is probably unhappy about `Ring` and `CommSemiring` at the same time.
+    let pf ← mkAppM ``intCast_mul #[a₂, pb₁, pb₃]
+    pure ⟨_, .mul vb₁ va₂ vb₃, pf⟩
+
+/-- Applies `Int.cast` to an int polynomial to produce a polynomial in `α`.
+
+* `↑0 = 0`
+* `↑(a + b) = ↑a + ↑b`
+-/
+partial def ExSum.evalIntCast {a : Q(ℤ)} (rα : Q(Ring $α)) (va : ExSum sℤ a) :
```
Comment (Vierkantor) [inline Mathlib/Tactic/Ring/Basic.lean:658]: I notice that this is not used in the frontend, so that e.g. `↑(a : ℤ) * b` would not normalize `a` but `a • b` would. Here, `↑(a : ℤ) * b` is the `simp`-normal form by [zsmul_eq_mul](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Int/Cast/Lemmas.html#zsmul_eq_mul). Looks like we don't deal with natural number casts either.

I think this is a feature worth adding (also for natural numbers).

**Review by Vierkantor — APPROVED** [review]
Otherwise, looks good to me, thanks!

File: Mathlib/Tactic/Ring/Basic.lean (hunk 1 above)
Comment (plp127) [reply Mathlib/Tactic/Ring/Basic.lean:650]: Please don't synthesize the instances at runtime. You can do a weird casting thing to make it work.

Comment (plp127) [reply Mathlib/Tactic/Ring/Basic.lean:650]: Try
```suggestion
    have eq : ($rα).toSemiring =Q ($sα).toSemiring := ⟨⟩
    let pf := q($eq ▸ intCast_mul $a₂ $pb₁ $pb₃)
```
(and the same below)

Comment (hrmacbeth) [reply Mathlib/Tactic/Ring/Basic.lean:650]: Aaron, this pattern is copied from the existing style in the file. Feel free to make a follow-up PR doing this throughout the file.

File: Mathlib/Tactic/Ring/Basic.lean (hunk 3 above)
Comment (hrmacbeth) [reply Mathlib/Tactic/Ring/Basic.lean:658]: @Vierkantor I spent some time thinking about this, since my instinct is actually the opposite: that casting isn't `ring`'s job. I think if I were writing `ring` from scratch I would actually handle *only* ℕ-smul and ℤ-smul of explicit numbers (= things `norm_num` succeeds on), not smul by ℕ/ℤ-expressions which include variables.

Just now I tried out downgrading `ring` in this way (quickly, leaving some sorries in meta-code) and you can see the result here:
https://github.com/hrmacbeth/mathlib4/commit/d502263f0b1721bf7e544b870e68fb2258d2ba3f
It seems that ring's handling of ℕ-expressions which include variables is used four times in mathlib.

What do you think of proceeding with the current behaviour in this PR (since it matches the status quo for ℕ), and then if either of us feels strongly we can open a PR to change the scope upwards (you) or downwards (me), and it can be discussed there?  (Personally, I don't think I feel strongly enough about this to open a PR!)

File: MathlibTest/ring.lean [hunk 4]
```diff
@@ -50,6 +50,10 @@ example {α} [CommRing α] (a b c d e : α) :
   (-(a * b) + c + d) * e = (c + (d + -a * b)) * e := by ring
 example (a n s : ℕ) : a * (n - s) = (n - s) * a := by ring
 
+example {α} [CommRing α] (x : α) : (2:ℕ) • x = x + x := by ring
+example {α} [CommRing α] (x : α) : (2:ℤ) • x = x + x := by ring
+example {α} [CommRing α] (x : α) : (-2:ℤ) • x = -x - x := by ring
```
Comment (adomani) [inline MathlibTest/ring.lean]:
```suggestion
example {α} [CommRing α] (x : α) : (2 : ℕ) • x = x + x := by ring
example {α} [CommRing α] (x : α) : (2 : ℤ) • x = x + x := by ring
example {α} [CommRing α] (x : α) : (-2 : ℤ) • x = -x - x := by ring
```

**Review by adomani — COMMENTED** [review]
I am happy with the current state and I think that this is already an improvement.

@Vierkantor, I am going to delegate you, in case you are not convinced by Heather's argument!  :smile: 

bors d=Vierkantor

File: Mathlib/Tactic/Ring/Basic.lean (hunk 3 above)
Comment (Vierkantor) [reply Mathlib/Tactic/Ring/Basic.lean:658]: Sure! I don't feel strongly enough about it to oppose this PR.

**Comment by Vierkantor** [comment]
I think the error you're getting is something transient, but it is blocking bors on other PRs. So I can't `bors r+` this yet.

bors d=@hrmacbeth

**Comment by Vierkantor** [comment]
Thanks for the PR!

File: Mathlib/Tactic/Ring/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Tactic/Ring/Basic.lean:650]: @hrmacbeth, is it? I don't see `mkAppM` before this PR.
